US04847256
4,5-Dihydro-4-methyl-7-[3-(trifluoromethyl)phenyl]pyrazolo[1,5-a]pyrimidine-3-carbonitrile
A mixture of 1.5 g of 4,5-dihydro-7-[3-(trifluoromethyl)phenyl]pyrazolo[1,5-a]pyrimidine-3-carbonitrile (Ex. 19) and 220 mg of 60% sodium hydride dispersed in mineral oil in 50 ml of N,N-dimethylformamide was stirred at room temperature under nitrogen for 3 1/2 hours. Then one ml of iodomethane was added and the reaction mixture was stirred under nitrogen for 16 hours. The mixture was evaporated in vacuo and gave an oil. The oil crystallized upon trituration in n-hexane to give the product which was recrystallized from ethyl acetate:n-hexane (1:4) and this gave the desired product as yellow crystals, mp 120°-122° C.

reactant | 4,5-dihydro-7-[3-(trifluoromethyl)phenyl]pyrazolo[1,5-a]pyrimidine-3-carbonitrile | 1.5 g | FC(C=1C=C(C=CC1)C1=CCNC=2N1N=CC2C#N)(F)F | C14H9F3N4
reactant | sodium hydride | 220 mg | [H-].[Na+]
reactant | iodomethane | one ml | IC | CH3I
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 4,5-Dihydro-4-methyl-7-[3-(trifluoromethyl)phenyl]pyrazolo[1,5-a]pyrimidine-3-carbonitrile | CN1C=2N(C(=CC1)C1=CC(=CC=C1)C(F)(F)F)N=CC2C#N | C15H11F3N4
